Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Admitted to Medicine service after uterine emblization
 
Major Surgical or Invasive Procedure:
Uterine fibroid embolization

 
History of Present Illness:
___ y/o lady with known symptomatic uterine fibroids was admitted 
after elective uterine fibroid embolization by Interventional 
Radiology.  Her symptoms are increased bleeding during her 
periods and abdominal cramps.  Has headache, admoninal 
discomfort and nausea after the procedure today.
.
Denies recent fever, chills, shortness of breath, chest pain, 
palpitations, loss of sensation or weakness. Denies any recent 
dysuria, hematuria, increased frequency or urgency. Her weight 
has increased recently and she attributes this to poor diet and 
lack of excercise.

 
Past Medical History:
- Migraine Headache
- Uterine fibroids
- History of urinary tract infection
- Partial Left thyroid lobe excission in ___
- G1P1

 
Social History:
___
Family History:
Diabetes runs in her family.  No known cancer history.
 
Physical Exam:
Vitals: T 97.3  BP 132/82  HR 76  RR 18  99% RA
Gen:  Alert and awake, NAD, lying on her back after ___ procedure
HEENT:  MMM, neck supple
Lungs: CTAB in ant lung fields
Heart: nl S1S2 RRR
Abdomen: soft ND, tender to palpate without guarding/rebound
Ext: WWP, DP 2+ b/l
Rigght fem cath site: No hematoma or bruit.  Tender to touch.
Neuro: Follows commands, spontaneously moves all 4 ext.

 
Pertinent Results:
Admit Labs:
___ 07:20AM BLOOD WBC-8.0 RBC-4.66 Hgb-13.4 Hct-41.0 MCV-88 
MCH-28.8 MCHC-32.8 RDW-12.9 Plt ___
___ 07:20AM BLOOD Neuts-73.3* ___ Monos-4.5 Eos-1.7 
Baso-0.1
___ 07:20AM BLOOD ___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD Creat-1.0
.
UTERINE EMBO  ___:
1. Vascular masses in the uterus.
2. Uncomplicated bilateral uterine artery embolization.
.

 
Brief Hospital Course:
This is a ___ woman with a symptomatic fibroid uterus 
admitted after embolization by interventional radiology.  
Patient tolerated the procedure well.  Her cath site was normal 
without bruit or hematoma.  She was initially admitted with 
dilaudid PCA pump which was weaned off.  She had mild 
leukocytosis the next day but no signs or symptoms of infection. 
 This is normal after the procedure per radiology staff.  
Patient will be discharged with oral pain meds and primary care 
follow up.  Interventional radiology team provided the number 
and directions to the patient for follow up.
.
 
Medications on Admission:
None
 
Discharge Medications:
1. Compazine 5 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea for 7 days.
Disp:*20 Tablet(s)* Refills:*0*
2. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO three times a 
day for 14 days.
Disp:*42 Tablet(s)* Refills:*0*
3. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*
4. Vicodin ___ mg Tablet Sig: One (1) Tablet PO four times a 
day as needed for pain for 14 days.
Disp:*45 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Uterine fibroids status post embolization

 
Discharge Condition:
Good, afebrile and hemodynamically stable.

 
Discharge Instructions:
You were admitted to ___ for 
elective uterine fibroid embolization.
.
Please take the medications as written.
.
Please keep all of the follow up appointments.
.
If you develop chest pain, shortness of breath, or any other 
concerning symptoms, please call your primary care doctor or go 
to the nearest Emergency Department.
 
Followup Instructions:
___